US07192982B2
3-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methoxy-phenyl)-2-methoxy-propionic acid
To a solution of 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid (1.02 g, 4.87 mmol) in CH2Cl2-DMF (20 mL=10:1) was added tert-butyl-dimethylsilyl chloride (1.75 g, 11.68 mmol) and imidazole (0.70 g, 10.24 mmol). The resulting solution was stirred at room temperature overnight. Water (15 mL) was added, and the aqueous phase was extracted with hexanes (30 mL). The hexanes layer was washed with water (10 mL), dried (MgSO4), filtered, and concentrated. The crude product was dissolved in ethyl acetate (10 mL), and a saturated solution of K2CO3 (5 mL) was added. The resulting mixture was stirred for 2 hours at room temperature. The aqueous layer was extracted with ethyl acetate (10 mL), acidified to pH 3, and extracted again with ethyl acetate (3×10 mL). The later organic layers were combined and washed with brine (20 mL), dried (MgSO4), and concentrated to a yellow oil (1.2 g, 77%). 1H-NMR (200.15 MHz, CDCl3): δ 6.78–6.67 (m, 3H), 3.96 (dd, 1H, J=7.8, 4.0), 3.78 (s, 3H), 3.35 (s, 3H), 3.09 (dd, 1H, J=14.2, 4.0), 2.91 (dd, 1H, J=14.2, 7.8), 0.98 (s, 9H), 0.13 (6H, s).

reactant | 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid | 4.87 mmol, 1.02 g | OC1=C(C=C(C=C1)CC(C(=O)O)OC)OC | C11H14O5
reactant | tert-butyl-dimethylsilyl chloride | 11.68 mmol, 1.75 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 10.24 mmol, 0.70 g | N1C=NC=C1 | C3H4N2
reactant | Water | 15 mL | O | H2O
solvent | CH2Cl2 DMF | 20 mL | C(Cl)Cl.CN(C)C=O
product | 3-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methoxy-phenyl)-2-methoxy-propionic acid | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)CC(C(=O)O)OC)OC)(C)C | C17H28O5Si
